* qu2017_azc_pin_3_amp

.include './technology_files/45nm_bulk.txt'


VDD vdd 0 1


* PMOS Transistors
MP0   net057 net055 vdd vdd pmos W=4e-06  L=1.3e-07
MP1   net055 net055 vdd vdd pmos W=4e-06  L=1.3e-07
MP2   net078 vb1     vdd vdd pmos W=4e-06 L=1.3e-07
MP3   vout   net050  vdd vdd pmos W=4e-06 L=1.3e-07
MP4   net049 vb1     vdd vdd pmos W=5e-06 L=1.3e-07
MP5   net094 net050  vdd vdd pmos W=4e-06 L=1.3e-07
MP6   net050 voutn   vdd vdd pmos W=4e-06 L=1.3e-07
MP7   voutn  voutn   vdd vdd pmos W=4e-06 L=1.3e-07
MP8   net063 vinp    net019 net019 pmos W=4e-06  L=1.3e-07
MP9   dm_2   vinn    net019 net019 pmos W=4e-06  L=1.3e-07
MP10  net019 vb1     vdd vdd pmos W=4e-06 L=1.3e-07
MP11  vb4    vb1     vdd vdd pmos W=4e-06 L=1.3e-07
MP12  vb1    vb1     vdd vdd pmos W=4e-06 L=1.3e-07

* NMOS Transistors
MN0   net049 net057 gnd gnd nmos W=3e-06  L=1.3e-07
MN1   net055 net094 gnd gnd nmos W=2e-06  L=1.3e-07
MN2   net077 dm_2   gnd gnd nmos W=2e-06  L=1.3e-07
MN3   net082 net063 gnd gnd nmos W=3e-06  L=1.3e-07
MN4   vout   net049  gnd gnd nmos W=2e-06  L=1.3e-07
MN5   net094 net051 gnd gnd nmos W=2e-06  L=1.3e-07
MN6   net057 net043 gnd gnd nmos W=2e-06  L=1.3e-07
MN7   dm_2   vb4    gnd gnd nmos W=2e-06  L=1.3e-07
MN8   voutn  net077 dm_2 gnd nmos W=2e-06  L=1.3e-07
MN9   net063 vb4    gnd gnd nmos W=3e-06  L=1.3e-07
MN10  net050 net082 net063 gnd nmos W=2e-06 L=1.3e-07
MN11  vb4    vb4    gnd gnd nmos W=2e-06 L=1.3e-07

* Current Source
I0    vb1    gnd 0.0005

* Capacitors
C2    net043 gnd 1e-10
C1    net051 gnd 1e-10
C0    net063 vout 2e-10

* Resistors
R3    net057 net043 1000.0
R2    net057 net051 1000.0
R1    net078 net082 1000.0
R0    net078 net077 1000.0

VINN vinn gnd 0.0
VINP vinp gnd 1.0

.control
DC temp  25   25   1
print gnd vdd vinn vinp vout net057 net055 net078 vb1 net050 net049 net094 voutn net063 dm_2 net019 vb4 net077 net082 net051 net043
.endc

.end