* peng_acbc_pin_3_amp

.include './technology_files/45nm_bulk.txt'

VDD vdd 0 1

MP0   net1    net1    vdd vdd pmos W='MP0W'    L='MP0L'
MP1   vout    net050  vdd vdd pmos W='MP1W'    L='MP1L'
MP2   net049  net013  vdd vdd pmos W='MP2W'    L='MP2L'
MP3   net043  net050  vdd vdd pmos W='MP3W'    L='MP3L'
MP4   net050  voutn   vdd vdd pmos W='MP4W'    L='MP4L'
MP5   voutn   voutn   vdd vdd pmos W='MP5W'    L='MP5L'
MP6   net063  vinp    net31 net31 pmos W='MP6W'    L='MP6L'
MP7   dm_2    vinn    net31 net31 pmos W='MP7W'    L='MP7L'
MP8   net31   net013  vdd vdd pmos W='MP8W'    L='MP8L'
MP9   vb3     net013  vdd vdd pmos W='MP9W'    L='MP9L'
MP10  dm_1    net013  vdd vdd pmos W='MP10W'   L='MP10L'
MP11  net1    net013  vdd vdd pmos W='MP11W'   L='MP11L'
MP12  vb4     net013  vdd vdd pmos W='MP12W'   L='MP12L'
MP13  net013  net013  vdd vdd pmos W='MP13W'   L='MP13L'

MN0   vout    net049  gnd gnd nmos W='MN0W'    L='MN0L'
MN1   net049  net043  gnd gnd nmos W='MN1W'    L='MN1L'
MN2   net043  net043  gnd gnd nmos W='MN2W'    L='MN2L'
MN3   dm_2    vb4     gnd gnd nmos W='MN3W'    L='MN3L'
MN4   voutn   vb3     dm_2 gnd nmos W='MN4W'   L='MN4L'
MN5   net063  vb4     gnd gnd nmos W='MN5W'    L='MN5L'
MN6   net050  vb3     net063 gnd nmos W='MN6W'   L='MN6L'
MN7   net54   vb4     gnd gnd nmos W='MN7W'    L='MN7L'
MN8   net1    net043  gnd gnd nmos W='MN8W'    L='MN8L'
MN9   vb3     vb3     gnd gnd nmos W='MN9W'    L='MN9L'
MN10  vb4     vb3     net54 gnd nmos W='MN10W'   L='MN10L'
MN11  net56   vb4     gnd gnd nmos W='MN11W'   L='MN11L'
MN12  dm_1    vb3     net56 gnd nmos W='MN12W'   L='MN12L'

I0    net013  gnd     'I0'
C1    net049  net1    'C1'
C0    net050  vout    'C0'

VINN vinn gnd 'VINN'
VINP vinp gnd 'VINP'

.control
DC temp  25   25   1
print gnd vdd vinn vinp vout net1 net050 net049 net013 voutn net063 vinp vinn dm_2 net31 vb3 dm_1 vb4 net043
.endc

.end